US06232413B1
Ethene-norbornene Copolymerization
54 ml of dry oxygen-free toluene and 47 g (0.5 mol) of norbornene distilled over sodium in a stream of argon were initially introduced into a V4A steel autoclave which had been heated thoroughly in vacuo, and 6.6 ml of a 10% strength MAO solution in toluene (10 mmol) were injected. The autoclave, which was stirred with a magnetic core, was heated to 70° C. under 6 bar of ethene and, after about 15 minutes, the copolymerization was started by addition of the catalyst under pressure by means of a pressure sluice. The catalyst employed was 1×10−6 mol of [(ind)Me2PBCl2(Cp)ZrCl2] (compound 5) in 0.52 ml of toluene and 1×10−4 mol of MAO in 6.6 ml of 10% strength MAO/toluene solution, after preforming at room temperature for 15 minutes. After copolymerization at 70° C. under 6 bar of ethene for 5 hours, the mixture was cooled to RT, the autoclave was let down and the clear, viscous polymer solution was stirred slowly into 2 liters of acetone. The white polymer which had precipitated was filtered off, washed with acetone and extracted by stirring overnight in 2 liters of ethanol and 200 ml of concentrated aqueous hydrochloric acid, and the product was filtered off by means of a suction filter and rinsed with ethanol. It was then dried to constant weight at 120° C.

reactant | oxygen | 54 ml | O=O | O2
reactant | norbornene | 0.5 mol, 47 g | C12C=CC(CC1)C2 | C7H10
reactant | sodium | [Na] | Na
reactant | ethene | C=C | C2H4
solvent | toluene | 0.52 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mmol | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 2 liters | CC(=O)C | C3H6O
product | Ethene norbornene | C=C.C12C=CC(CC1)C2 | InChI=1S/C7H10.C2H4/c1-2-7-4-3-6(1)5-7;1-2/h1-2,6-7H,3-5H2;1-2H2
